US05580863
With 4-nitrobenzylphosphonic acid and 2,2-dimethyl-1,3-propanediol, the same procedure as in Reference Example 11 was followed, to yield 5,5-dimethyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide, which was then recrystallized from ethanol-hexane to yield colorless plates having a melting point of 176° to 177° C.

reactant | 4-nitrobenzylphosphonic acid | [N+](=O)([O-])C1=CC=C(CP(O)(O)=O)C=C1 | C7H8NO5P
reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
product | 5,5-dimethyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide | CC1(COP(OC1)(CC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C12H16NO5P
